Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[C:8]([H:9])([H:10])[O:11][C:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],0.537998834559
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],1.82964887358
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:14]([H:15])([H:16])[H:17],0.274306755779
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],3.56894081178
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.61366751072
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:6][C:7]=[C:8]([H:9])[H:10].[O:4][H:5],3.4750996954800004
[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-2.78790198137
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.98807534857
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.13957385781
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.14638262836
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])=[C:10]1[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],1.71401847435
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][O:8][H:9].[H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-2.42275404163
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[O:12][H:13].[H:7]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-1.89614308437
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.15855667965
[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13].[H:4],1.7586242519
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.41703917956
[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7]>>[C:1]=[O:2].[C:3]#[C:4][O:5][C:6][H:7],-1.1695908361
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],4.9973188331900005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],1.69348597738
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-8.28264949237
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7],1.02857156199
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.63281984068
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],3.4058119837700005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.098462179959999
[C:1].[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-7.460428366729999
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.94360899321
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],5.20854408874
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],3.75949769962
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.5462847152400006
